US04780543
1-phenyl-3-(2-nitroethenyl)-pyrazoline
A mixture of 3-formyl-1-phenyl-2-pyrazoline (3.48 g), n-butylamine (0.2 ml) and nitromethane (10 ml) was stirred at 100° C. for 1 hour, then was cooled to room temperature. The resultant dark red crystalline mass was dissolved in toluene and was eluted down a silica column with toluene. The major orange fraction was evaporated to dryness under reduced pressure and the residue was recrystallised from ethanol to give a 59% yield of dark red micro crystals (MP 150° C.).

reactant | 3-formyl-1-phenyl-2-pyrazoline | 3.48 g | C(=O)C1=NN(CC1)C1=CC=CC=C1 | C10H10N2O
reactant | n-butylamine | 0.2 ml | C(CCC)N | C4H11N
reactant | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-(2-nitroethenyl)-pyrazoline | 59% yield | C1(=CC=CC=C1)N1NC(=CC1)C=C[N+](=O)[O-] | C11H11N3O2
